US05223505
N-(4-Methoxyphenyl)thiourea (18.2 g, 100 mM) and 2,6,6-trimethyl-1,3-dioxin-4-one (21.3 g, 150 mM) were heated together at 140° C. (bath temperature) for 30 minutes. The solid product was cooled, treated with ethanol (100 ml), boiled for 10 minutes, cooled and the solid product was isolated by filtration. More dioxinone (21.3 g) was added to the above material and the mixture was heated at 140° C. for a further 20 minutes. Ethanol (50 ml) was then added to the cooled mixture, which was then heated under reflux for 5 minutes. The mixture was cooled and the solid product isolated by filtration to give 2,3-dihydro-1-(4-methoxyphenyl)-6-methyl-2-thioxo-4(1H)pyrimidinone (17.9 g, 72% yield) m.p. 248°-249° C.; microanalysis, found: C,58.2; H,4.9; N,11.0%; C12H12N2OS requires: C,58.1; H,4.8; N,11.3%.

reactant | N-(4-Methoxyphenyl)thiourea | 100 mM, 18.2 g | COC1=CC=C(C=C1)NC(=S)N | C8H10N2OS
reactant | 2,6,6-trimethyl-1,3-dioxin-4-one | 150 mM, 21.3 g | CC1OC(CC(O1)=O)(C)C | C7H12O3
reactant | dioxinone | 21.3 g | O1C(COC=C1)=O | C4H4O3
solvent | Ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,3-dihydro-1-(4-methoxyphenyl)-6-methyl-2-thioxo-4(1H)pyrimidinone | 17.9 g, 72% yield | COC1=CC=C(C=C1)N1C(NC(C=C1C)=O)=S | C12H12N2O2S
